US08017779B2
1-[2-Ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-7-yl]pyrrolidin-2-one (0.38 g) was dissolved in chloroform (10 mL). 3-Chloroperoxybenzoic acid (60% pure, 0.37 g) was added in one portion and the mixture was allowed to stir for 16 hours. Ammonium hydroxide (10 mL) was added and the biphasic mixture was cooled to 2° C. with an ice/water bath. Benzenesulfonyl chloride (0.22 mL) was added and the reaction was stirred for 3 hours. The layers were separated and the aqueous fraction was extracted with chloroform. The combined organic fractions were sequentially washed with water and saturated aqueous sodium chloride; dried over anhydrous sodium sulfate; filtered and concentrated under reduced pressure. The residue was purified by column chromatography on a Biotage Horizon™ High-Performance Flash Chromatography instrument using a silica gel cartridge. The polar component of the eluent was chloroform:methanol:ammonium hydroxide 80:18:2 (CMA). The purification was carried out eluting with chloroform:CMA in a gradient from 99:1 to 73:27. Fractions containing product were combined and concentrated under reduced pressure. The residue was recrystallized from acetonitrile to afford 0.14 g of 1-[4-amino-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-7-yl]pyrrolidin-2-one as a white solid, mp 165-167° C.

reactant | 1-[2-Ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-7-yl]pyrrolidin-2-one | 0.38 g | C(C)OCC=1N(C2=C(C=NC=3C=C(C=CC23)N2C(CCC2)=O)N1)CCCOC(C)C | C23H30N4O3
reactant | 3-Chloroperoxybenzoic acid | 0.37 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | Ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | Benzenesulfonyl chloride | 0.22 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-amino-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-7-yl]pyrrolidin-2-one | 0.14 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCOC(C)C)COCC)N2C(CCC2)=O | C23H31N5O3
